US04284644
250 mg. of 5,7-Dinitrospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one, 50 mg. of platinum dioxide and 20 ml. of ethanol were stirred in a stream of hydrogen for 1.25 hour under atmospheric pressure. To the reaction mixture was added oxalic acid, and the catalyst was removed by filtration. The filtrate was concentrated under reduced pressure until its volume became above 3 ml. Ether was added to the concentrate, and the resulting powder was collected by filtration. The powder was dissolved in ethanol. To the ethanolic solution was added activated charcoal for decoloration, followed by addition of ether. The precipitating powder was collected by filtration to obtain 5,7-diaminospiro[benzo[b]furan-2(3H),1'-cyclopropane]3-one.1/2 oxalate.monohydrate as yellowish brown powder.

reactant | 5,7-Dinitrospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | [N+](=O)([O-])C1=CC2=C(OC3(CC3)C2=O)C(=C1)[N+](=O)[O-] | C10H6N2O6
reactant | hydrogen | [H][H] | H2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
catalyst | platinum dioxide | [Pt](=O)=O
solvent | ethanol | C(C)O | C2H6O
product | 5,7-diaminospiro[benzo[b]furan-2(3H),1'-cyclopropane]3-one | NC1=CC2=C(OC3(CC3)C2=O)C(=C1)N | C10H10N2O2
